US04857530
2-Amino-5-methyl-6-[[2-propynyl(3,4,5-trimethoxyphenyl)amino]methyl]-4(3H)-quinazolinone
A suspension of 0.10 g (0.27 mmol) of 2-amino-5-methyl-6-[[(3,4,5-trimethoxyphenyl)amino]methyl]-4(3H)-quinazolinone, (see Example P) 0.54 ml (2.7 mmol) of an 80% solution of 3-bromo-1-propyne in toluene, and 0.42 ml (3.0 mmol) of triethylamine in 10 ml of ethanol is heated under reflux for eighteen hours. The solution is cooled, concentrated, and combined with material obtained from a similar experiment also using 0.10 g of starting material. The residue is dissolved in methanol and treated with 10 g of flash silica gel. The methanol is evaporated and the powder is applied to a column of 100 g of flash silica gel packed in dichloromethane/methanol (50:1). Elution with the same solvent initially, gradually increasing the polarity to dichloromethane/methanol (10:1) gives 0.07 g of a glassy material. Two recrystallizations from ethanol gives 0.0196 g (8.5%) of the product as an off-white solid, mp 202°-204° C.

reactant | 2-amino-5-methyl-6-[[(3,4,5-trimethoxyphenyl)amino]methyl]-4(3H)-quinazolinone | 0.27 mmol, 0.10 g | NC1=NC2=CC=C(C(=C2C(N1)=O)C)CNC1=CC(=C(C(=C1)OC)OC)OC | C19H22N4O4
reactant | 3-bromo-1-propyne | BrCC#C | C3H3Br
reactant | triethylamine | 3.0 mmol, 0.42 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2-Amino-5-methyl-6-[[2-propynyl(3,4,5-trimethoxyphenyl)amino]methyl]-4(3H)-quinazolinone | 0.07 g | NC1=NC2=CC=C(C(=C2C(N1)=O)C)CN(C1=CC(=C(C(=C1)OC)OC)OC)CC#C | C22H24N4O4
